US07034039B2
To a solution of tert-butyl 6-benzyloxy-4-hydroxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate (6.35 g, 15 mmol) in N,N-dimethylformamide (50 mL) was added sodium hydride (0.72 g, 18 mmol) (60% in oil) at 0° C. and the mixture was stirred at 0° C. for 30 min. To the obtained mixture was added N-phenyltrifluoromethanesulfonimide (6.43 g, 18 mmol) and the mixture was stirred at room temperature for 2 h. The reaction mixture was poured into water and extracted with ethyl acetate. After washing the extract with water, the extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl 6-benzyloxy-2-isobutyl-1-oxo-4-trifluoromethanesulfonyloxy-1,2-dihydro-3-isoquinolinecarboxylate (6.62 g, 81.2%) as an oil.

reactant | tert-butyl 6-benzyloxy-4-hydroxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 15 mmol, 6.35 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)C(=O)OC(C)(C)C)O | C25H29NO5
reactant | sodium hydride | 18 mmol, 0.72 g | [H-].[Na+]
reactant | N-phenyltrifluoromethanesulfonimide | 18 mmol, 6.43 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | tert-butyl 6-benzyloxy-2-isobutyl-1-oxo-4-trifluoromethanesulfonyloxy-1,2-dihydro-3-isoquinolinecarboxylate | 6.62 g, 81.2% | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)C(=O)OC(C)(C)C)OS(=O)(=O)C(F)(F)F | C26H28F3NO7S
